US06313344B1
c) 1-(4-[{Dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)propane-1,2-dione-1-oxime
28 ml of a 30% solution of sodium methanolate in methanol are added at room temperature to 31.6 g of 1-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propan-2-one in 300 ml of methanol, and 27 ml of isopentyl nitrite are then added dropwise. The reaction mixture is stirred for a further hour and rendered neutral with acetic acid; the solvent is evaporated off in vacuo. 200 ml of ethyl acetate are added to the residue; the organic phase is washed with water and saturated sodium chloride solution and dried over sodium sulfate; the solvent is evaporated off in vacuo. Recrystallisation from diethyl ether/hexane yields the title product having a melting point of 115-117° C.

reactant | sodium methanolate | C[O-].[Na+]
reactant | 1-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propan-2-one | C[Si](C1=CC=C(C=C1)F)(C)COC1=CC=C(C=C1)CC(C)=O | C18H21FO2Si
reactant | isopentyl nitrite | 27 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 1-(4-[{Dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)propane-1,2-dione-1-oxime | C[Si](C1=CC=C(C=C1)F)(C)COC1=CC=C(C=C1)C(C(C)=O)=NO | C18H20FNO3Si
